US07531532B2
4-(4-Amino-2-fluorophenoxy)-6-{[4-(2-dimethylaminoethyl)piperazin-1-yl]carbonylamino}pyrimidine
4-{[4-(2-Dimethylaminoethyl)piperazin-1-yl]carbonylamino}-6-(2-fluoro-4-nitrophenoxy)pyrimidine (167 mg) was dissolved in tetrahydrofuran (16 ml). After adding 20% palladium hydroxide-carbon (108 mg), the mixture was stirred overnight under a hydrogen atmosphere. The catalyst was filtered and washed with tetrahydrofuran. The filtrate and the washings were combined and concentrated under reduced pressure, and the resultant residue was dried under reduced pressure to provide the title compound (150 mg, 97%) as pale yellow powder.

reactant | 4-{[4-(2-Dimethylaminoethyl)piperazin-1-yl]carbonylamino}-6-(2-fluoro-4-nitrophenoxy)pyrimidine | 167 mg | CN(CCN1CCN(CC1)C(=O)NC1=NC=NC(=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])F)C | C19H24FN7O4
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
catalyst | palladium hydroxide carbon | 108 mg | [OH-].[Pd+2].[OH-].[C]
product | 4-(4-Amino-2-fluorophenoxy)-6-{[4-(2-dimethylaminoethyl)piperazin-1-yl]carbonylamino}pyrimidine | 150 mg, 97% | NC1=CC(=C(OC2=NC=NC(=C2)NC(=O)N2CCN(CC2)CCN(C)C)C=C1)F | C19H26FN7O2
